US08470835B2
A mixture of platinum oxide and 1,1-dimethylethyl [(3R,4R)-4-azidotetrahydro-2H-pyran-3-yl]carbamate (42 g) was purged with nitrogen (×3) and ethanol (1 l) was added. The vessel was purged (×3), charged with hydrogen and stirred at 400 rpm while cooling at 20° C. and stirred for 3 h. The vessel was purged with nitrogen (×3), refilled with hydrogen and stirred for a further 3.5 h. The vessel was purged and refilled with hydrogen at 15 psi and stirred overnight. The vessel was purged and refilled and stirred for 1.5 h. The mixture was filtered through Celite under a nitrogen atmosphere, the filter cake washed with ethanol (2×500 ml) and the filtrate reduced to dryness in vacuo to give 1,1-dimethylethyl [(3R,4R)-4-aminotetrahydro-2H-pyran-3-yl]carbamate (38 g).

reactant | 1,1-dimethylethyl [(3R,4R)-4-azidotetrahydro-2H-pyran-3-yl]carbamate | 42 g | N(=[N+]=[N-])[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C10H18N4O3
catalyst | platinum oxide | [Pt]=O
product | 1,1-dimethylethyl [(3R,4R)-4-aminotetrahydro-2H-pyran-3-yl]carbamate | 38 g | N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C10H20N2O3
